US06924278B2
To a stirred solution of chloropyrazine (1.14 g) and [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride (106 mg) in dry tetrahydrofuran (40 ml) was added a solution of 3,4-methylenedioxybenzylmagnesium chloride (0.6 M in tetrahydrofuran, 29 ml) at 5° C. under nitrogen atmosphere over 15 minutes. After 1 hour of stirring at 5° C., 3N hydrochloric acid was added slowly under nitrogen atmosphere and the mixture was stirred for 1 hour. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with water and dried over magnesium sulfate. The usual work up followed by flash chromatography on silica gel with a mixture of n-hexane and ethyl acetate (10:1-4:1) gave 2-(3,4-methylenedioxybenzyl)pyrazine (454 mg) as a colorless oil.

reactant | chloropyrazine | 1.14 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 3,4-methylenedioxybenzylmagnesium chloride | 0.6 M, 29 ml | C1OC=2C=C(C[Mg]Cl)C=CC2O1
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride | 106 mg | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
product | 2-(3,4-methylenedioxybenzyl)pyrazine | 454 mg | C1OC=2C=C(CC3=NC=CN=C3)C=CC2O1 | C12H10N2O2
